US03935245
0.433 g. of 6-chloro-11α-hydroxy-17-acetoxy-1α,2α-methylene-4,6-pregnadiene-3,20-dione -- prepared from 6-chloro-17-acetoxy-1α,2α-methylene-4,6-pregnadiene-3,20-dione by microbiological hydroxylation as described in the following paragraph -- is reacted analogously to A9 with succinic acid anhydride and worked up. After purification by way of the sodium salt, 230 mg. of (6-chloro-17-acetoxy-3,20-dioxo-1α,2α-methylene-4,6-pregnadien-11α-yl) hydrogen succinate is obtained as a foam. UV: ε280 = 15,500.

reactant | 6-chloro-11α-hydroxy-17-acetoxy-1α,2α-methylene-4,6-pregnadiene-3,20-dione | ClC1=C[C@H]2[C@@H]3CC[C@](C(C)=O)([C@]3(C[C@H]([C@@H]2[C@]2([C@@H]3[C@H](C(C=C12)=O)C3)C)O)C)OC(C)=O | C24H29ClO5
reactant | 6-chloro-17-acetoxy-1α,2α-methylene-4,6-pregnadiene-3,20-dione | ClC1=C[C@H]2[C@@H]3CC[C@](C(C)=O)([C@]3(CC[C@@H]2[C@]2([C@@H]3[C@H](C(C=C12)=O)C3)C)C)OC(C)=O | C24H29ClO4
reactant | succinic acid anhydride | C1(CCC(=O)O1)=O | C4H4O3
product | (6-chloro-17-acetoxy-3,20-dioxo-1α,2α-methylene-4,6-pregnadien-11α-yl) hydrogen succinate | C(CCC(=O)O)(=O)O[C@H]1[C@@H]2[C@]3([C@@H]4[C@H](C(C=C3C(=C[C@H]2[C@@H]2CC[C@](C(C)=O)([C@]2(C1)C)OC(C)=O)Cl)=O)C4)C | C28H33ClO8
